US04910218
Using the procedure outlined in Example 34A, ethyl 1H-benzofuro[2,3-g]indole-2-carboxylate (H. G. Pars Pharmaceutical Laboratories, Inc.) gave a 86.3% yield of ethyl 1-methyl-1H-benzofuro[2,3-g]indole-2-carboxylate, mp 114°-116°, (EtOAc), (C,H,N).

reactant | ethyl 1H-benzofuro[2,3-g]indole-2-carboxylate | N1C(=CC2=CC=C3C(=C12)C1=C(O3)C=CC=C1)C(=O)OCC | C17H13NO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 1-methyl-1H-benzofuro[2,3-g]indole-2-carboxylate | 86.3% yield | CN1C(=CC2=CC=C3C(=C12)C1=C(O3)C=CC=C1)C(=O)OCC | C18H15NO3
